US08389550B2
6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid
To a suspension of 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester (150 mg, 0.47 mmol) in THF (1.5 mL) and methanol (0.5 mL) was added a solution of lithium hydroxide monohydrate (39.2 mg, 0.94 mmol) in water (1.5 mL) added and the resulting mixture stirred at room temperature for 1 h. The mixture was acidified to pH 4 with HCl (1 N) and cooled to 0° C. The precipitate was filtered off and dried to afford the title compound (134 mg, 93%) which was obtained as a white solid. MS: m/e=305.4 [M−H]+.

reactant | 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester | 0.47 mmol, 150 mg | COC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C19H16N2O3
reactant | lithium hydroxide monohydrate | 0.94 mmol, 39.2 mg | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid | 134 mg, 93% | CC1=C(C(=NO1)C1=CC=CC=C1)/C=C/C1=NC=C(C(=O)O)C=C1 | C18H14N2O3
